US05462952
2-[(3-Trifluoromethylphenyl)amino]-benzoic acid, hydrazide
Hydrazine hydrate (14 ml) is added dropwise to a solution of methyl 2-[(3-trifluoromethylphenyl)amino]-benzoate (1.463 g, 4.95 mmol) in 70 ml of methanol. The reaction solution is heated at 60° C. under an inert atmosphere for two hours and then concentrated in vacuo and chromatographed, eluting with ethyl acetate and hexane (1:1), providing 763.0 mg (52%) of a white solid, mp 134°-135° C.

reactant | Hydrazine hydrate | 14 ml | O.NN
reactant | methyl 2-[(3-trifluoromethylphenyl)amino]-benzoate | 4.95 mmol, 1.463 g | FC(C=1C=C(C=CC1)NC1=C(C(=O)OC)C=CC=C1)(F)F | C15H12F3NO2
solvent | methanol | 70 ml | CO | CH4O
product | 2-[(3-Trifluoromethylphenyl)amino]-benzoic acid, hydrazide | 763.0 mg, 52% | FC(C=1C=C(C=CC1)NC1=C(C(=O)NN)C=CC=C1)(F)F | C14H12F3N3O
